US20010020034A1
3-(2,5-Difluoro-4-methyl-benzyloxy)-5-{3-[4-(3,4-dihydroxy-pyrrolidin-1-yl)-butyl] -ureido}-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 1-(4-amino-butyl)-pyrrolidine-3,4-diol by the procedure analogous to Example 8. HPLC ret. time: minutes. 1H NMR (400 MHz, CD3OD) δ 7.20 (dd, 1H, J=6.0, 9.2 Hz), 7.04 (dd, 1H, J=6.8, 9.6 Hz), 5.45 (s, 2H), 3.63 (t, 4H, J=5.6 Hz), 3.28 (m), 2.74 (m, 4H), 2.68 (m, 2H), 2.25 (d, 3H, J=2.0 Hz), 1.56 (m, 4H) ppm.

reactant | [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C(=C1)F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | 1-(4-amino-butyl)-pyrrolidine-3,4-diol | NCCCCN1CC(C(C1)O)O | C8H18N2O2
product | 3-(2,5-Difluoro-4-methyl-benzyloxy)-5-{3-[4-(3,4-dihydroxy-pyrrolidin-1-yl)-butyl] -ureido}-isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCN2CC(C(C2)O)O)C=C(C(=C1)C)F | C21H27F2N5O5S
